data/rdb19/train.csv
rxn,smiles,ea
2911,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])([C:20]([H:21])[H:22])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:14])([H:15])[C:20]([C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:29])([H:30])[H:31])[H:28])([H:21])[H:22])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],11.599485272658058
3515,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:17]([C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26])([H:9])[H:10])([H:6])([H:7])[H:8],11.819628885539714
794,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]=[O:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:17])([H:18])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N+:7]([H:17])([H:18])[C-:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:22]([H:32])([H:33])[H:34],57.32709994359175
4586,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])[c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[H:32])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],17.821100897621363
5074,[C:11]([C:12]([C:13]([H:14])[H:15])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:19])([H:20])[H:21].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[H:15])[N:16]([C:17](=[O:18])[H:24])[H:23])([H:19])([H:20])[H:21].[C:1]([H:5])([H:6])([H:7])[H:22].[O:2][C:3](=[C:4]([H:9])[H:10])[H:8],71.60786093998468
4540,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:8])[H:9].[H:7][C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:16])[H:17],19.231329307542183
5449,[C:19]([C:20]([C:21]([H:22])[H:23])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5][C:6](=[O:7])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:17][C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:22])[H:23],25.29825768509181
1357,[C:10]([C:11]([H:12])[H:13])([H:14])([H:15])[H:16].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:9][C:11]([C:10]([H:14])([H:15])[H:16])([H:12])[H:13].[O:1]([C:2](=[O:3])[C:4](=[C:5][H:8])[H:7])[H:6],26.12862729904009
2204,[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([H:23])[H:24])([H:25])([H:26])[H:27]>>[C:1]([C:2]([C:3]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21](=[C:22]([H:23])[H:24])([H:26])[H:27].[C:4]([H:13])([H:14])([H:15])[H:25],80.55757909611566
4571,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:17]([C:18]([C:19]([C:20]([H:33])[H:34])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[H:35])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],22.314584567851853
3343,[C:13]([C:14]([C:15]([H:16])[O:17][C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14](=[C:15]([H:16])[O:17][C:18]([H:24])([H:25])[H:26])[H:22])([H:19])([H:20])[H:21].[C:1]([C:2](=[C:3][H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7].[H:8][H:23],54.09294050352764
